US06964966B2
Ethyl chloroformate (10.0 g, 90 mmol) was added to a stirred solution of 1-benzyl-3,5-dimethyl-4-piperidinone (5.0 g, 24 mmol) in benzene (20 ml), refluxed with stirring for 6 hr and concentrated to dryness to give 1-carbethoxy-3,5-dimethyl-4-piperidinone as oil.

reactant | Ethyl chloroformate | 90 mmol, 10.0 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-benzyl-3,5-dimethyl-4-piperidinone | 24 mmol, 5.0 g | C(C1=CC=CC=C1)N1CC(C(C(C1)C)=O)C | C14H19NO
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-carbethoxy-3,5-dimethyl-4-piperidinone | C(=O)(OCC)N1CC(C(C(C1)C)=O)C | C10H17NO3
